US04404222
α-[(Tert-butylamino)methyl]-3,5-dichlorobenzyl Alcohol Hydrochloride
A solution containing 3.5 g of 3,5-dichlorostyrene oxide in 50 ml of absolute ethanol and 20 ml of t-butylamine is heated gently at reflux for 8 hours and the mixture is evaporated to dryness. The clear yellow syrup is dissolved in 75 ml of ethanol and 25 ml of H2O, and the solution is cooled to 5° C. and acidified with 3 N HCl. This solution is evaporated to dryness in vacuo and the residual white solid is recrystallized from acetone to afford 2.81 g, m.p. 218°-221° C.

reactant | 3,5-dichlorostyrene oxide | 3.5 g | ClC=1C=C(C2CO2)C=C(C1)Cl | C8H6Cl2O
reactant | t-butylamine | 20 ml | C(C)(C)(C)N | C4H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | α-[(Tert-butylamino)methyl]-3,5-dichlorobenzyl Alcohol Hydrochloride | Cl.C(C)(C)(C)NCC(C1=CC(=CC(=C1)Cl)Cl)O | InChI=1S/C12H17Cl2NO.ClH/c1-12(2,3)15-7-11(16)8-4-9(13)6-10(14)5-8;/h4-6,11,15-16H,7H2,1-3H3;1H
